US06197963B1
D. Methyl 2,3,4-tri-O-benzyl-6-O-trifluoromethylsulfonyl-β-D-glucopyranoside
To a stirred solution of methyl 6-O-tert-butyldiphenylsilyl-2,3,4-tri-O-benzyl-β-D-glucopyranoside (800 mg, 1.71 mmol) in 8.55 mL of dry dichloromethane at −78° C. was added 2,6-di-tert-butyl-4-methyl pyridine (632 mg, 3.08 mmol) followed by triflic anhydride (345 μl, 2.05 mmol). After stirring 15 minutes at −78° C., the mixture was warmed to room temperature over 20 minutes, and then poured into a solution of saturated aqueous NaHCO, (20 mL) and extracted with ethyl acetate (50 mL). The organic layer was washed with saturated NaHCO3 (3×20 mL), saturated aqueous NaCl (1×20 mL), and dried over magnesium sulfate. Concentration provided crude target compound, which was used in the next step without further purification.

reactant | methyl 6-O-tert-butyldiphenylsilyl-2,3,4-tri-O-benzyl-β-D-glucopyranoside | 1.71 mmol, 800 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](OC)O1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C44H50O6Si
reactant | 2,6-di-tert-butyl-4-methyl pyridine | 3.08 mmol, 632 mg | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
reactant | triflic anhydride | 2.05 mmol, 345 μl | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 8.55 mL | ClCCl | CH2Cl2
product | Methyl 2,3,4-tri-O-benzyl-6-O-trifluoromethylsulfonyl-β-D-glucopyranoside | C(C1=CC=CC=C1)O[C@H]1[C@H](OC)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COS(=O)(=O)C(F)(F)F | C29H31F3O8S
